US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (1.14 g), 3-pyridinebutanol (1.04 g), triphenylphosphine (2.07 g), and tetrahydrofuran (25 mL) was stirred at 0° C. while adding dropwise a solution of diethyl azodicarboxylate (1.37 g) in tetrahydrofuran (10 mL). The mixture was stirred for 2 hours at 0° C. and evaporated to dryness. The material was purified by HPLC (hexane-acetone; 2:1) to provide 1.4 g of alpha-oxo-4-[4-(3-pyridinyl)butoxy]benzeneacetic acid methyl ester (4:1) molar hydrate as a colorless oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 1.14 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | 3-pyridinebutanol | 1.04 g | N1=CC(=CC=C1)CCCCO | C9H13NO
reactant | triphenylphosphine | 2.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.37 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | alpha-oxo-4-[4-(3-pyridinyl)butoxy]benzeneacetic acid methyl ester | 1.4 g | COC(C(C1=CC=C(C=C1)OCCCCC=1C=NC=CC1)=O)=O | C18H19NO4
